US04066457
20.1 Grams 2-chloro-5-nitrobenzoic acid was added in portions to 100 ml pyrrolidine. A cooling bath was applied as necessary during the addition. After the addition was complete, the reaction was heated on a steam bath for three hours, cooled, poured into ice water and made acidic with concentrated HCl until precipitation of product was complete. Recrystallization from ethanol gave 19.4 grams 5-nitro-2-(1-pyrrolidinyl)benzoic acid. m.p. = 224°-266° C dec. The nitro compound was reduced catalytically in ethanol with 5% palladium on carbon catalyst to give 5-amino-2-(1-pyrrolidinyl)benzoic acid. m.p. = 205°-208° C dec.

reactant | 2-chloro-5-nitrobenzoic acid | ClC1=C(C(=O)O)C=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | pyrrolidine | 100 ml | N1CCCC1 | C4H9N
product | 5-nitro-2-(1-pyrrolidinyl)benzoic acid | 19.4 grams | [N+](=O)([O-])C=1C=CC(=C(C(=O)O)C1)N1CCCC1 | C11H12N2O4
